**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Mono-color Reverse mount Waterclear
* Matchcode:              WL-SMRW
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-02-21
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1206_156120BS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=1.3096E-3
+ N=5
+ RS=2.7866
+ IKF=6.9577E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120GS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=2.4395E-9
+ N=5
+ RS=3.2882
+ IKF=2.7030E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120RS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120VS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=557.55E-18
+ N=2.1602
+ RS=.37378
+ IKF=236.66E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120YS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt  1206_156120BS75300  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=7.6676E-9
+ N=5
+ RS=2.6261
+ IKF=1.3194E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt  1206_156120GS75300  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=2.4395E-9
+ N=5
+ RS=3.2882
+ IKF=2.7030E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt  1206_156120RS75300  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt  1206_156120VS75300  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=557.55E-18
+ N=2.1602
+ RS=.37378
+ IKF=236.66E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt  1206_156120YS75300  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=824.78E-18
+ N=2.2038
+ RS=.38595
+ IKF=240.07E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=10.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120AS82500  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=10.000E-21
+ N=1.7534
+ RS=1.0001E-6
+ IKF=1.8327E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120BS82500  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=405.09E-18
+ N=3.5007
+ RS=1.2309
+ IKF=193.25E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120GS82500  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=6.1877E-9
+ N=5
+ RS=5.3132
+ IKF=888.94E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120RS82500  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=404.38E-18
+ N=2.1466
+ RS=.75545
+ IKF=193.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120SS82500  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=1.3208E-15
+ N=2.2823
+ RS=.83386
+ IKF=200.04E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120VS82500  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=2.8896E-15
+ N=2.4166
+ RS=.90451
+ IKF=204.76E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120YS82500  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=635.69E-18
+ N=2.2278
+ RS=.79472
+ IKF=195.42E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120AS82500P  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=10.000E-21
+ N=1.7534
+ RS=1.0001E-6
+ IKF=1.8327E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120BS82500P  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=405.09E-18
+ N=3.5007
+ RS=1.2309
+ IKF=193.25E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120GS82500P  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=6.1877E-9
+ N=5
+ RS=5.3132
+ IKF=888.94E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120RS82500P  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=404.38E-18
+ N=2.1466
+ RS=.75545
+ IKF=193.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120SS82500P  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=1.3208E-15
+ N=2.2823
+ RS=.83386
+ IKF=200.04E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120VS82500P  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=2.8896E-15
+ N=2.4166
+ RS=.90451
+ IKF=204.76E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1206_156120YS82500P  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=635.69E-18
+ N=2.2278
+ RS=.79472
+ IKF=195.42E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1205_156125AS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=678.87E-18
+ N=2.1818
+ RS=.37963
+ IKF=238.04E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1205_156125BS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=11.416E-15
+ N=3.7886
+ RS=1.4842
+ IKF=213.88E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1205_156125GS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=6.1877E-9
+ N=5
+ RS=5.3132
+ IKF=888.94E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1205_156125RS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=404.38E-18
+ N=2.1466
+ RS=.75545
+ IKF=193.03E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1205_156125VS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=145.90E-15
+ N=3.0776
+ RS=1.3206
+ IKF=234.37E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt 1205_156125YS75000  1  2
D1 1 2 SMRW
.MODEL SMRW D
+ IS=1.6961E-15
+ N=2.3471
+ RS=.86331
+ IKF=201.75E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******













